US06075043
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-methylpyrazole
3-Aminocrotononitrile (5.0 g) was added to a stirred solution of 2,6-dichloro-4-trifluoromethylphenylhydrazine (15.0 g) in ethanol (100 ml), then the resulting solution treated with concentrated sulphuric acid (1.0 ml) to produce a white solid precipitate. The mixture was heated under reflux for 6 hours, allowed to cool and stirred for a further 18 hours at room temperature; this cycle was repeated, then more concentrated sulphuric acid (4 ml) added. The reaction mixture was heated at 60° C. for 8 hours, allowed to cool, stirred at room temperature for 18 hours and evaporated under reduced pressure. The resulting orange oil was partitioned between dichloromethane (100 ml) and water (100 ml), then the organic phase dried, allowed to stand at room temperature for 18 hours and filtered to remove some white solid material. The filtrate was evaporated under reduced pressure to give an orange oil which was triturated with hot hexane. On cooling, the hexane solution deposited a yellow oil which slowly crystallised to furnish the title compound as a white solid, m.p. 80-830C. Found: C, 42.73; H, 2.62; N, 13.58. C11H8Cl2F3N3 requires C, 42.61; H, 2.60; N, 13.55%. δ(CDCl3): 2.25 (s,3H), 3.48 (br.s,2H), 5.52 (s,1H), 7.70 (s,2H). MS (thermospray): M/Z [M]310.0; C11H8Cl2F3N3 requires 310.12.

reactant | 3-Aminocrotononitrile | 5.0 g | N\C(=C/C#N)\C | C4H6N2
reactant | 2,6-dichloro-4-trifluoromethylphenylhydrazine | 15.0 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
reactant | sulphuric acid | 1.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulphuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-methylpyrazole | NC1=CC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C | C11H8Cl2F3N3
